US08217570B2
48% HBr 50 mL was added to 6.9 g (40 mmol) of 2-amino-6-phenylpyridine and stirred. The solution was cooled down to −20° C., and 7.7 g (48 mmol) of bromine was dropwise added thereto. Further, 2.8 g (40 mmol) of sodium nitrite was dropwise added thereto. The solution was stirred for 3 hours while elevating the temperature up to room temperature. After finishing the reaction, the solution was extracted with ethyl acetate, and the aqueous layer was removed. The organic layer was dried on anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was refined by silica gel chromatography to obtain 7.5 g (yield: 80%) of 2-bromo-6-phenylpyridine.

reactant | 2-amino-6-phenylpyridine | 40 mmol, 6.9 g | NC1=NC(=CC=C1)C1=CC=CC=C1 | C11H10N2
reactant | bromine | 48 mmol, 7.7 g | BrBr | Br2
reactant | sodium nitrite | 40 mmol, 2.8 g | N(=O)[O-].[Na+]
solvent | HBr | 50 mL | Br | BrH
product | 2-bromo-6-phenylpyridine | 7.5 g, yield: 80% | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
